resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.0093
R2 0 n2 1.002418
R3 0 n4 0.987478
R4 n1 n3 1.014901
R5 n1 n5 7.031208
R6 n2 n3 1.001553
R7 n2 n6 1.008715
R8 n3 n7 0.994991
R9 n4 n5 0.984914
R10 n4 n6 1.017316
R11 n5 n7 0.992237
R12 n6 n7 0.993821
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
